Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Continued back and leg pain following prior lumbar surgeries.
 
Major Surgical or Invasive Procedure:
REVISION FUSION L4-L5, RIGHT L5-L6 MICRODISCECTOMY; L4-L6 FUSION

 
History of Present Illness:
___ year old male who has had multiple back fusions, with the 
latest being a T11-L4 done at an OSH. He has continued lower 
back and mid thoracic back pain, with L4 radiculopathy. A caudal 
injection was done without any therapeutic benefit.
A lumbar CT scan demonstrated good bony fusion in the upper 3 
level constructs, but poor fusion in the last two. He does not 
show, however, any screw loosening or halo anyway. In 
flexion/extension XR, he doesn't show any frank movement, 
neither in thoracic nor lumbar.

His pain was thought to be resulting from right sided disc 
herniation at the level below the construct due to ASD. Surgery 
was proposed in the form of an extension of the fusion to one 
level below (L4-5 revision and L4-6 fusion) and right L5-6 
microdiscectomy. We explained the procedure, recovery time and
complications. 
 
Past Medical History:
asthma, GERD, depression and chronic low back pain s/p T11-L4 
fusion
 
Social History:
___
Family History:
Mother: Cancer, heart disease, lung disease, GI problems
Paternal grandfather: Kidney disease   
 
___ Results:
See OMR for all lab and imaging results.
 
Brief Hospital Course:
Patient presented to the pre-op area, was evaluated by 
anesthesia and taken to the OR for elective L4/5 Revision 
Fusion, R L5-L6 microdiscectomy; L4-L6 fusion on ___. Patient 
tolerated the procedure well. Please refer to formal op report 
in OMR for further surgical/intra-operative details. Patient was 
extubated in the OR and taken to the PACU in stable condition. 
His incision was noted to have some drainage, which was 
reinforced with additional staples. He was subsequently admitted 
to the neurosurgery service. On POD 1 he was fitted for an LSO 
brace to be worn whenever out of bed. He received follow up 
x-rays and was noted to have some continued drainage until POD 3 
when his dressing was removed. Mr. ___ was evaluated by ___ 
with recommendations for home with outpatient ___ later on. He 
was subsequently discharged in stable condition with follow up 
recommendations in place.  
 
Medications on Admission:
-ProAir HFA 90 mcg/actuation aerosol inhaler
 as needed for shortness of breath or wheezing 
-bupropion HCl XL 300 mg 24 hr tablet, extended release
1 tablet(s) by mouth once a day 
-fluoxetine 60 mg tablet
1 tablet(s) by mouth once a day 
-pantoprazole 40 mg tablet,delayed release
1 tablet(s) by mouth twice a day 
-Lyrica 300 mg capsule
1 capsule(s) by mouth twice a day   
-sumatriptan 100 mg tablet
1 tablet(s) by mouth as needed for migraines 
-tamsulosin 0.4 mg capsule
1 capsule(s) by mouth once a day 
-acetaminophen   

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Diazepam 5 mg PO BID:PRN pain  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Floor medication
Decrease in dosage and frequency as pain decreases  
5.  Senna 8.6 mg PO BID  
6.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
7.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
8.  FLUoxetine 60 mg PO DAILY  
9.  Pantoprazole 40 mg PO Q12H  
10.  Pregabalin 300 mg PO BID  
11.  Sumatriptan Succinate 100 mg PO DAILY:PRN migraines  
12.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Revision fusion with disc herniation and adjacent pathology

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples. You will need staple 
removal. 
•Do not apply any lotions or creams to the site. 
•Please keep your incision dry until removal of your 
sutures/staples.
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
___ must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
•You must wear your brace while showering or may shower briefly 
without brace if sitting in shower chair. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___